US04808605
2.8 ml of butyl chloroformate are added dropwise at -5° to a solution of 5.0 g (0.020 mol) of p-[(2-benzimidazolyl)methyl]benzoic acid and 2.8 ml (0.020 mol) of triethylamine in 68 ml of dimethylformamide. After stirring at 0°-5° for 30 minutes 1.32 g (0.020 mol) of methylamine hydrochloride and 2.8 ml (0.020 mol) of triethylamine in 28 ml of dimethylformamide and 1.4 ml of water are added. The temperature is then left to rise to room temperature and the mixture is stirred for a further 18 hours. After concentration under reduced pressure the residue is chromatographed on 400 g of silica gel with chloroform/ethanol (4:1) as the elution agent. The uniform fractions give 2.0 g (38%) of N-methyl-p-[(2-benzimidazolyl)methyl]benzamide, m.p. 250°-255° (dec.), as a colourless powder.

reactant | butyl chloroformate | 2.8 ml | ClC(=O)OCCCC | C5H9ClO2
reactant | p-[(2-benzimidazolyl)methyl]benzoic acid | 0.020 mol, 5.0 g | N1=C(NC2=C1C=CC=C2)CC2=CC=C(C(=O)O)C=C2 | C15H12N2O2
reactant | triethylamine | 0.020 mol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.020 mol, 1.32 g | Cl.CN
reactant | triethylamine | 0.020 mol, 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 68 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
solvent | water | 1.4 ml | O | H2O
product | N-methyl-p-[(2-benzimidazolyl)methyl]benzamide | 2.0 g, 38% | CNC(C1=CC=C(C=C1)CC=1NC2=C(N1)C=CC=C2)=O | C16H15N3O
